US04623727
2-(8-Quinolinoxy)-acetamide oxime (Compound No. 2)
A solution of 6.4 g of hydroxylamine hydrochloride in 10 ml of water and 6.4 g of potassium carbonate in 10 ml of water is added dropwise at room temperature, within 15 minutes, to 15.8 g of 8-(cyanomethoxy)-quinoline in 100 ml of ethanol, in the course of which the reaction mixture warms up to 30° C. After 3 hours' stirring at room temperature, the reaction mixture is diluted with 250 ml of water; it is subsequently filtered, and the residue is washed with water and dried. There is thus obtained 2-(8-quinolinoxy)-acetamide oxime in the form of light-brown powder, m.p. 201°-204° C. (decomposition).

reactant | hydroxylamine hydrochloride | 6.4 g | Cl.NO
reactant | potassium carbonate | 6.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 8-(cyanomethoxy)-quinoline | 15.8 g | C(#N)COC=1C=CC=C2C=CC=NC12 | C11H8N2O
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 250 ml | O | H2O
product | 2-(8-Quinolinoxy)-acetamide oxime | N1=CC=CC2=CC=CC(=C12)OCC(N)=NO | C11H11N3O2
